US04904674
To a stirred suspension of 5-[2-(benzo[b]thiophen-2-yl)ethenyl]thiophene-2-carboxylic acid (9.11 g) and dichloromethane (900 ml) was added over 5 mins thionyl chloride (7.56 g). The mixture was refluxed overnight. The solvent was removed in vacuo to give 9.25 g of 5-[2-(benzo[b]thiophen-2-yl)ethenyl]thiophene-2-carboxylic acid chloride.

reactant | 5-[2-(benzo[b]thiophen-2-yl)ethenyl]thiophene-2-carboxylic acid | 9.11 g | S1C2=C(C=C1C=CC1=CC=C(S1)C(=O)O)C=CC=C2 | C15H10O2S2
reactant | thionyl chloride | 7.56 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 900 ml | ClCCl | CH2Cl2
product | 5-[2-(benzo[b]thiophen-2-yl)ethenyl]thiophene-2-carboxylic acid chloride | 9.25 g | S1C2=C(C=C1C=CC1=CC=C(S1)C(=O)Cl)C=CC=C2 | C15H9ClOS2
